US05304556
(1) Preparation of 7-(2-chlorobenzyloxy)-3,4-dihydro-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone (Compound No. 98 in Table):
To a suspension of 32 mg of sodium hydride (about 60%) in 10 ml of dimethylformamide was added 100 mg of 3,4-dihydro-7-hydroxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone, and the resultant mixture was stirred for 15 minutes. Then, 95 mg of 2-chloromethylchlorobenzene was added to the mixture, which was stirred at room temperature for 20 hours. After finishing the reaction, the mixture was mixed with water and shaken with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was chromatographed on a column of silica gel, eluting with ethyl acetate to give 144 mg of the titled compound.

reactant | sodium hydride | 32 mg | [H-].[Na+]
reactant | 3,4-dihydro-7-hydroxy-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone | 100 mg | OC1=CC=C2CCN(C(C2=C1)=O)CC=1C=NC=CC1 | C15H14N2O2
reactant | 2-chloromethylchlorobenzene | 95 mg | ClCC1=C(C=CC=C1)Cl | C7H6Cl2
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-(2-chlorobenzyloxy)-3,4-dihydro-2-(3-pyridylmethyl)-1 (2H)-isoquinolinone | 144 mg | ClC1=C(COC2=CC=C3CCN(C(C3=C2)=O)CC=2C=NC=CC2)C=CC=C1 | C22H19ClN2O2
